US04988828
N-[3-(3-hydroxymethylphenoxy)propyl]-2-(furfurylthio)acetamide (6.5 g) and triethylamine (4 g) were dissolved in 200 ml of chloroform. Under ice cooling, 2.8 g of thionyl chloride was added dropwise to the solution. The mixture was stirred for 3 hours, and then the solution was washed with a saturated aqueous solution of sodium hydrogen carbonate and water, and dried. The solvent was evaporated, and the residue was dissolved in 250 ml of ethanol and refluxed with 5 g of piperidine. Five hours later, the reaction solution was concentrated. The residue was taken into ethyl acetate and washed with 5% HCl. The washing (aqueous layer) was made alkaline with potassium carbonate (solid), and again extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated to give 5.09 g (yield 65.3%) of N-(3-[3-(piperidinomethyl)phenoxy]propyl)-2-(furfurylthio)acetamide.

reactant | N-[3-(3-hydroxymethylphenoxy)propyl]-2-(furfurylthio)acetamide | 6.5 g | OCC=1C=C(OCCCNC(CSCC2=CC=CO2)=O)C=CC1 | C17H21NO4S
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 2.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-[3-(piperidinomethyl)phenoxy]propyl)-2-(furfurylthio)acetamide | 5.09 g, yield 65.3% | N1(CCCCC1)CC=1C=C(OCCCNC(CSCC2=CC=CO2)=O)C=CC1 | C22H30N2O3S
